US06326372B1
Step 1: 4-(2-Keto-1-benzimidazolinyl)piperidine Butylphthalimide
4-(2-keto-1-benzimidazolinyl)piperidine (1.04 g, 4.79 mmol), N-(4-bromobutyl)-phthalimide (1.59 g, 5.64 mmol) and triethylamine (986 mL, 7.07 mmol) were combined in 10 mL of N,N-dimethylformamide. The reaction mixture was stirred at 50° C. for 18 hours, and then concentrated in vacuo. The residue was partitioned between dichloromethane and saturated sodium bicarbonate. The phases were separated and the organic phase was dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The resulting solid was purified by “flash” chromatography (95:5:0.5 of dichloromethane:methanol:ammonium hydroxide). The product fractions were evaporated to dryness and reconcentrated twice from diethyl ether to give the title compound as a solid.

reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 4.79 mmol, 1.04 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | N-(4-bromobutyl)-phthalimide | 5.64 mmol, 1.59 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | triethylamine | 7.07 mmol, 986 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(2-Keto-1-benzimidazolinyl)piperidine Butylphthalimide | C(CCC)C1=C2C(C(=O)NC2=O)=CC=C1.O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | InChI=1S/C12H15N3O.C12H13NO2/c16-12-14-10-3-1-2-4-11(10)15(12)9-5-7-13-8-6-9;1-2-3-5-8-6-4-7-9-10(8)12(15)13-11(9)14/h1-4,9,13H,5-8H2,(H,14,16);4,6-7H,2-3,5H2,1H3,(H,13,14,15)
